US07060827B2
In a manner similar to the preparation of N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine, N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine and 4-hydroxyphenylboronic acid were reacted to yield N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(4-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.53 (s, 1H), 8.92 (s, 1H), 7.78 (s, 1H), 7.74 (bs, 1H), 7.24 (bs, 1H), 7.22 (d, 2H, J=8.7 Hz), 7.12–7.09 (m, 2H), 6.97 (dt, 1H, J=2.4 and 8.7 Hz), 6.83 (d, 2H, J=8.4 Hz), 6.72 (d, 1H, J=8.1 Hz), 6.62 (d, 1H, J=9.0 Hz), 4.19 (s, 4H), 4.17 (s, 4H); LCMS: ret. time: 23.51 min.; purity: 95%; MS (m/e): 471 (MH+).

reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=CC=C2 | C26H22N4O4
reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)Br | C20H17BrN4O4
reactant | 4-hydroxyphenylboronic acid | OC1=CC=C(C=C1)B(O)O | C6H7BO3
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(4-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=C(C=C2)O | C26H22N4O5
